US06525045B2
Step 2: 3-Chlorosulphonyl-1-benzothiophene:
180 g of sodium-benzothiophene-3-sulphonate are placed in 650 ml of phosphorus oxychloride and then combined with 156 g of phosphorus pentachloride. The reaction mixture is refluxed for 3.5 hours before the excess phosphorus oxychloride is eliminated by distillation in vacuo. The residue is taken up in 800 ml of chloroform and the precipitate formed is separated off by filtering. The filtrate is concentrated by evaporation and stirred into 800 ml of petroleum ether with heating. The crystalline substance thus precipitated is filtered off, washed with petroleum ether and dried at 35° C.

reactant | sodium benzothiophene-3-sulphonate | 180 g | [Na].S1C=C(C2=C1C=CC=C2)S(=O)(=O)[O-]
reactant | phosphorus pentachloride | 156 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | phosphorus oxychloride | 650 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-Chlorosulphonyl-1-benzothiophene | ClS(=O)(=O)C1=CSC2=C1C=CC=C2 | C8H5ClO2S2
